US07220856B2
7-Chloro-4-[4-(methoxyimino(4-fluorophenylamino)methyl)piperazin-1-yl]quinoline
7-Chloro-4-(piperazin-1-yl)quinoline (297 mg, 1.2 mmol), N-(4-Fluorophenyl)-N′-methoxythiourea (240 mg, 1.2 mmol), and sodium periodate (278 mg, 1.3 mmol) in DMF-water 1:1 (40 mL) are heated at 85° C. for 1 h. The reaction mixture is diluted with water and extracted with ether. The organic phase is dried (MgSO4) and concentrated. The residue is purified by column chromatography with hexane-EtOAc yielding the title product.

reactant | 7-Chloro-4-(piperazin-1-yl)quinoline | 1.2 mmol, 297 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
reactant | N-(4-Fluorophenyl)-N′-methoxythiourea | 1.2 mmol, 240 mg | FC1=CC=C(C=C1)NC(=S)NOC | C8H9FN2OS
reactant | sodium periodate | 1.3 mmol, 278 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | DMF water | 40 mL | CN(C)C=O.O
solvent | water | O | H2O
product | 7-Chloro-4-[4-(methoxyimino(4-fluorophenylamino)methyl)piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(NC1=CC=C(C=C1)F)=NOC | C21H21ClFN5O
